US06911447B2
Preparation of N-Cbz-6-allyl-2,3-dihydro-1H-pyridin-4-one (14):
To a solution of 4-methoxypyridine (50 mL, 0.492 mol) in toluene (1 L) is added benzyl chloroformate (70.3 mL, 0.492 mol) at 0° C. The resulting mixture is stirred at 0° C. for 30 minutes then cooled to −75° C. and allyl magnesium chloride (295.5 mL, 0.591 mol) is added. The solution is held at −75° C. for 4 hours and allowed to warm to 0° C. at which point a solution of 20% HCl is added to quench the reaction. The organic layer is isolated and purified over silica gel to yield the desired product.

reactant | 4-methoxypyridine | 0.492 mol, 50 mL | COC1=CC=NC=C1 | C6H7NO
reactant | benzyl chloroformate | 0.492 mol, 70.3 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | allyl magnesium chloride | 0.591 mol, 295.5 mL | C(C=C)[Mg]Cl
reactant | HCl | Cl | ClH
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
product | N-Cbz-6-allyl-2,3-dihydro-1H-pyridin-4-one | C(=O)(OCC1=CC=CC=C1)N1CCC(C=C1CC=C)=O | C16H17NO3
